US07786142B2
Synthesis of 1-(9H-carbazol-4-yloxy)-3-[3,5-dimethoxybenzyl(methyl)amino]propan-2-ol
The reaction of 1-(9H-carbazol-4-yloxy)-3-(methylamino)propan-2-ol (0.20 g, 0.74 mmol) with 3,5-dimethoxybenzaldehyde (0.185 g, 1.11 mmol) in the presence of 2-3 drops of glacial acetic acid and Na(OAc)3BH (0.157 g, 0.578 mmol) following the procedure similar to the one described in example 26, afforded the title compound as a brown colored paste (0.045 g, 13% yield) with 1H NMR (400 MHz, DMSO): δ 2.25(s, 3H), 3.40-3.60 (m, 2H), 3.51 (s, 2H), 3.65 (s, 6H), 4.10-4.13 (m, 1H), 4.15-4.25 (m, 2H), 5.00 (s, 1H), 6.31 (s, 1H), 6.49 (d, 2H, J=1.6 Hz), 6.67 (d, 1H, J=8.0 Hz), 7.05-7.12 (m, 2H), 7.25-7.35 (m, 2H), 7.43 (d, 1H, J=8 Hz), 8.17 (d, 1H, J=8.0 Hz), 11.23 (s, 1H). MS m/z: 421.0 (M+1).

reactant | 1-(9H-carbazol-4-yloxy)-3-(methylamino)propan-2-ol | 0.74 mmol, 0.20 g | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CNC)O | C16H18N2O2
reactant | 3,5-dimethoxybenzaldehyde | 1.11 mmol, 0.185 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | Na(OAc)3BH | 0.578 mmol, 0.157 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
catalyst | acetic acid | 2-3 drops | C(C)(=O)O | C2H4O2
product | 1-(9H-carbazol-4-yloxy)-3-[3,5-dimethoxybenzyl(methyl)amino]propan-2-ol | 13% yield | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC(CN(C)CC1=CC(=CC(=C1)OC)OC)O | C25H28N2O4
